Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[CH2:1][c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1.[OH:8][c:9]1[cH:10][c:11]2[cH:12][n:13][nH:14][c:15]2[cH:16][c:17]1[Br:18]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[O:8][c:9]1[cH:10][c:11]2[cH:12][n:13][nH:14][c:15]2[cH:16][c:17]1[Br:18],[OH:8][c:9]1[cH:10][c:11]2[cH:12][n:13][nH:14][c:15]2[cH:16][c:17]1[Br:18].[OH:101][CH2:1][c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1.c1ccccc1[P:301](c2ccccc2)c3ccccc3.[O:302]=[C:303]([N:304]=[N:305]C(=O)OCC)OCC>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[O:8][c:9]1[cH:10][c:11]2[cH:12][n:13][nH:14][c:15]2[cH:16][c:17]1[Br:18],Mitsunobu,"[(301, 305), ([305, 304], 304), (304, [304, 303]), ([303, 302], 302), (302, [302, 303]), ([303, 304], 8.1), ([8.1, 8], 8), (101, 301), ([301, 305], 305), (305, 101.1), ([101.1, 101], 101), (8, 1), ([1, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([CH:2]=[CH2:3])=[O:4].[OH:5][CH2:6][C:7]([Cl:10])([Cl:8])[Cl:9]>>[C:1]([CH:2]=[CH2:3])(=[O:4])[O:5][CH2:6][C:7]([Cl:8])([Cl:9])[Cl:10],[OH:5][CH2:6][C:7]([Cl:8])([Cl:9])[Cl:10].[Cl:101][C:1]([CH:2]=[CH2:3])=[O:4].[H-:301].[Na+]>>[C:1]([CH:2]=[CH2:3])(=[O:4])[O:5][CH2:6][C:7]([Cl:8])([Cl:9])[Cl:10],alcohol_attack_to_carbonyl_or_sulfonyl,"[(301, 5.1), ([5.1, 5], 5), (5, 1), ([1, 4], 4), (4, [4, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][CH2:2][N:3]([CH3:4])[CH3:5].[CH3:6][C:7]([CH3:8])([CH3:9])[O:10][C:11](=[O:12])[N:13]1[CH2:33][CH2:32][N:16]([CH2:17][c:18]2[c:19]([OH:20])[cH:21][cH:22][cH:23][c:24]2-[c:25]2[cH:26][cH:27][c:28]([Cl:29])[cH:30][cH:31]2)[CH2:15][CH2:14]1>>[CH2:1]([CH2:2][N:3]([CH3:4])[CH3:5])[O:20][c:19]1[c:18]([CH2:17][N:16]2[CH2:15][CH2:14][N:13]([C:11]([O:10][C:7]([CH3:6])([CH3:8])[CH3:9])=[O:12])[CH2:33][CH2:32]2)[c:24](-[c:25]2[cH:26][cH:27][c:28]([Cl:29])[cH:30][cH:31]2)[cH:23][cH:22][cH:21]1,[CH3:6][C:7]([CH3:8])([CH3:9])[O:10][C:11](=[O:12])[N:13]1[CH2:14][CH2:15][N:16]([CH2:17][c:18]2[c:19]([OH:20])[cH:21][cH:22][cH:23][c:24]2-[c:25]2[cH:26][cH:27][c:28]([Cl:29])[cH:30][cH:31]2)[CH2:32][CH2:33]1.[Cl:101][CH2:1][CH2:2][N:3]([CH3:4])[CH3:5].[H-:301].[Na+]>>[CH2:1]([CH2:2][N:3]([CH3:4])[CH3:5])[O:20][c:19]1[c:18]([CH2:17][N:16]2[CH2:15][CH2:14][N:13]([C:11]([O:10][C:7]([CH3:6])([CH3:8])[CH3:9])=[O:12])[CH2:33][CH2:32]2)[c:24](-[c:25]2[cH:26][cH:27][c:28]([Cl:29])[cH:30][cH:31]2)[cH:23][cH:22][cH:21]1,SN2_alcohol(thiol),"[(301, 20.1), ([20.1, 20], 20), (20, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][CH2:2][CH2:3][CH2:4][CH2:5][O:6][CH:7]1[CH2:8][CH2:9][CH2:10][CH2:11][O:12]1.c1ccc(P(c2ccccc2)(c2ccccc2)=[CH:13][CH:14]=[O:15])cc1>>[CH:1](\[CH2:2][CH2:3][CH2:4][CH2:5][O:6][CH:7]1[CH2:8][CH2:9][CH2:10][CH2:11][O:12]1)=[CH:13]/[CH:14]=[O:15],c1ccc([P:101](c2ccccc2)(c2ccccc2)=[CH:13][CH:14]=[O:15])cc1.[O:102]=[CH:1][CH2:2][CH2:3][CH2:4][CH2:5][O:6][CH:7]1[CH2:8][CH2:9][CH2:10][CH2:11][O:12]1>>[CH:1](\[CH2:2][CH2:3][CH2:4][CH2:5][O:6][CH:7]1[CH2:8][CH2:9][CH2:10][CH2:11][O:12]1)=[CH:13]/[CH:14]=[O:15],Wittig_ver_2,"[([101, 13], 1), ([1, 102], 101), ([1, 102], [102, 101]), ([101, 13], [13, 1])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])OC(OC(C)(C)C)=O.[CH3:8][NH:9][C@H:10]1[CH2:11][CH2:12][C@@H:13]([c:14]2[cH:15][cH:16][c:17]([Cl:18])[c:19]([Cl:20])[cH:21]2)[c:22]2[cH:23][cH:24][c:25]([C:26](=[O:27])[O:28][CH3:29])[cH:30][c:31]21>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:9]([CH3:8])[C@H:10]1[CH2:11][CH2:12][C@@H:13]([c:14]2[cH:15][cH:16][c:17]([Cl:18])[c:19]([Cl:20])[cH:21]2)[c:22]2[cH:23][cH:24][c:25]([C:26](=[O:27])[O:28][CH3:29])[cH:30][c:31]21,[CH3:8][NH:9][C@H:10]1[CH2:11][CH2:12][C@@H:13]([c:14]2[cH:15][cH:16][c:17]([Cl:18])[c:19]([Cl:20])[cH:21]2)[c:22]2[cH:23][cH:24][c:25]([C:26](=[O:27])[O:28][CH3:29])[cH:30][c:31]21.CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:9]([CH3:8])[C@H:10]1[CH2:11][CH2:12][C@@H:13]([c:14]2[cH:15][cH:16][c:17]([Cl:18])[c:19]([Cl:20])[cH:21]2)[c:22]2[cH:23][cH:24][c:25]([C:26](=[O:27])[O:28][CH3:29])[cH:30][c:31]21,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(9, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
